US08703768B2
Step 4: 5-tert-Butoxycarbonylamino-2-phenyl-thiazole-4-carboxylic acid methylamide
A solution of 5-tert-butoxycarbonylamino-2-phenyl-thiazole-4-carboxylic acid (138 mg, 0.43 mmol) in THF (2.5 ml) was treated with HATU (187 mg, 0.49 mmol), N-methylmorpholin (0.25 ml, 2.24 mmol) and methylamine (0.29 ml, 2M THF solution) and stirred at 75° C. for 6 h. The reaction mixture was partitioned between potassium hydrogen sulfate (10% aqueous solution) and ethyl acetate and extracted. The organic layer was washed with water, sodium bicarbonate and brine. The combined organic phases were dried and the solvent was evaporated. The product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light yellow solid (98 mg, 65%).

reactant | 5-tert-butoxycarbonylamino-2-phenyl-thiazole-4-carboxylic acid | 0.43 mmol, 138 mg | C(C)(C)(C)OC(=O)NC1=C(N=C(S1)C1=CC=CC=C1)C(=O)O | C15H16N2O4S
reactant | HATU | 0.49 mmol, 187 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholin | 2.24 mmol, 0.25 ml | CN1CCOCC1 | C5H11NO
reactant | methylamine | 2M, 0.29 ml | CN | CH5N
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | 5-tert-Butoxycarbonylamino-2-phenyl-thiazole-4-carboxylic acid methylamide | CNC(=O)C=1N=C(SC1NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H19N3O3S
